US05569653
(A) 1-Benzenesulfonyl-3-(1-phenoxycarbonyl-4-piperazinyl)-1H-indazole
To a solution of 1-benzenesulfonyl-3-(1-methyl-4-piperazinyl)-1H-indazole (2.1 g, 5.89 mmol) in dichloromethane (100 mi) was added phenyl chloroformate (3.8 ml, 29.45 mmol) at room temperature. The reaction mixture was warmed to reflux for 2 hours, cooled to room temperature, and concentrated. The residue was diluted with ethyl acetate, filtered and purified via flash column chromatography (silica gel, ethyl acetate). Concentration of the product containing fractions gave an oil which solidified on standing. The product was washed well with heptane to give 1.5 g of a white solid, m.p. 112°-114° C.

reactant | 1-benzenesulfonyl-3-(1-methyl-4-piperazinyl)-1H-indazole | 5.89 mmol, 2.1 g | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C | C18H20N4O2S
reactant | phenyl chloroformate | 29.45 mmol, 3.8 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Benzenesulfonyl-3-(1-phenoxycarbonyl-4-piperazinyl)-1H-indazole | 1.5 g | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C(=O)OC1=CC=CC=C1 | C24H22N4O4S
